US07786108B2
Step 2. Preparation of (S)-2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-amino]-tetrazol-2-yl}-ethanol
Add trifluoroacetic acid (2 mL) to a solution of (S)-5-{(3,5-Bis-trifluoromethyl-benzyl)-[2-(2-hydroxy-ethyl)-2H-tetrazol-5-yl]-amino}-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester (0.0650 g, 0.0952 mmol) in methylene chloride (2 mL) at room temperature, stir for 1 h. Evaporate solvents and partition the residue between saturated aqueous sodium bicarbonate solution (10 mL). Extract the mixture with methylene chloride (10 mL). Separate two layers and dry over anhydrous sodium sulfate and filter. Remove the solvent under reduced pressure. Chromatograph the residue over silica gel, eluting with ethyl acetate/hexanes (0-100%), to provide the title compound as a colorless oil (0.0340 g, 62%). MS (ES+): 583 (M+H).

reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-5-{(3,5-Bis-trifluoromethyl-benzyl)-[2-(2-hydroxy-ethyl)-2H-tetrazol-5-yl]-amino}-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylic acid tert-butyl ester | 0.0952 mmol, 0.0650 g | C(C)(C)(C)OC(=O)N1C2=C([C@H](CCC1)N(C=1N=NN(N1)CCO)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C | C29H31F9N6O3
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-amino]-tetrazol-2-yl}-ethanol | 0.0340 g, 62% | FC(C=1C=C(CN(C=2N=NN(N2)CCO)[C@@H]2C3=C(NCCC2)C=C(C(=C3)C)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C24H23F9N6O
